US07888364B2
A solution of 3,5-bis(trifluoromethyl)hydrocinnamic acid (1.0 g, 3.5 mmol) and TEA (0.46 g, 4.5 mmol) in THF (16 mL) was cooled to −40° C. (ethanol-water/dry ice bath). To this mixture was dropwise added isobutyl chloroformate (0.56 g, 4.1 mmol) and stirring was continued for another 1.5 hours while the temperature of the cooling bath was maintained between −40° C. and −20° C. Solid NaBH4 (0.53 g, 14 mmol) was added, followed by H2O (1.3 mL). The cloudy mixture was stirred overnight while warming to room temperature. After concentrating in vacuo, the residue was partitioned between ethyl acetate and water. The aqueous layer was acidified to pH 1 with 37% HCl and extracted with ethyl acetate. The combined organic layers were washed sequentially with saturated NaHCO3, and brine, then dried (MgSO4) and concentrated. The resulting oil was purified by flash silica gel chromatography (6:4 ethyl ether-hexane) to yield 3-[3′,5′-bis(trifluoromethyl)phenyl]-1-propanol.

reactant | 3,5-bis(trifluoromethyl)hydrocinnamic acid | 3.5 mmol, 1.0 g | FC(C=1C=C(CCC(=O)O)C=C(C1)C(F)(F)F)(F)F | C11H8F6O2
reactant | ethanol water dry ice | C(C)O.O.C(=O)=O
reactant | isobutyl chloroformate | 4.1 mmol, 0.56 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NaBH4 | 14 mmol, 0.53 g | [BH4-].[Na+]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.3 mL | O | H2O
product | 3-[3′,5′-bis(trifluoromethyl)phenyl]-1-propanol | FC(C=1C=C(C=C(C1)C(F)(F)F)CCCO)(F)F | C11H10F6O
